US03953476
Step C: Preparation of 2-furfurylamino-4-chloro-5-methylsulfonylbenzoic acid
A mixture of 2,4-dichloro-5-methylsulfonylbenzoic acid (15 g.; 0.055 mole) and furfurylamine (30 ml.) is heated in an oil bath at 125° C. under an atmosphere of nitrogen for 3 hours then poured into cold, dilute hydrochloric acid (200 ml.) to precipitate 17.6 g., (98%) of 2-furfurylamino-4-chloro-5-methylsulfonylbenzoic acid, m.p. 204° C. (dec.) after recrystallization from nitromethane (200 ml.).

reactant | 2,4-dichloro-5-methylsulfonylbenzoic acid | 0.055 mole, 15 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C8H6Cl2O4S
reactant | furfurylamine | 30 ml | C(C1=CC=CO1)N | C5H7NO
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 2-furfurylamino-4-chloro-5-methylsulfonylbenzoic acid | C(C1=CC=CO1)NC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C13H12ClNO5S
